US05227452
A. Synthesis of 4,4'-Dihydroxybenzanilide
One hundred grams of 4,4'-dihydroxybenzophenone (0.467 mole) is added to 300 milliliters of ethanol in a stirred, 1-liter Erlenmeyer flask. After the 4,4'-dihydroxybenzophenone has dissolved, a solution consisting of 48.6 grams of hydroxylamine hydrochloride (0.699 mole) and 57.4 grams of sodium acetate (0.700 mole) in 70 milliliters of deionized water is added followed by an additional 100 milliliters of ethanol. This mixture is stirred and heated on a hot plate to a gentle refluxing condition (75° C.). After heating for 4 hours, the solution is allowed to cool to room temperature with stirring and then filtered. One hundred milliliters of ethanol is used to wash the filter cake. The total filtrant obtained (600.4 grams) is then concentrated to a weight of 219.2 grams by evaporation of the ethanol and water. This solution is then placed in a stirred 1-liter Erlenmeyer flask to which 600 milliliters of deionized water is added. With the addition of the deionized water, a white precipitate is formed. After 30 minutes of stirring, this solution is filtered. The solids obtained weigh 98.22 grams after drying. Sixty-six grams of this material (4,4'-dihydroxybenzophenone oxime, 0.288 mole) is added to 330 milliliters of glacial acetic acid in a 500 milliliter round bottom flask equipped with a stirrer, water cooled condensor, nitrogen purge and heating mantle. A catalytic amount of toluenesulfonic acid (1.85 grams, 0.027 mole) is next added and the reaction mixture is then heated to 83° C. After heating for approximately 2 hours, a precipitate is formed which is stirred for an additional 2 hours at 87° C. Twenty-five milliliters of deionized water is next added and after 30 minutes, the contents of the reaction flask are transferred to a stirred, 1-liter Erlenmeyer flask. Immediately following this transfer, 400 milliliters of deionized water is added. This solution is stirred for 45 minutes and then filtered. The filter cake obtained is washed with 800 milliliters of deionized water and then dried. The resultant solids, which are a light beige color, weigh 54.82 grams. Fourier transform infrared analysis of this product shows absorbances which are indicative of the structure for 4,4'-dihydroxybenzanilide. Differential scanning calorimetry analysis shows a sharp melt endotherm at 273° C. for the 4,4'-dihydroxybenzanilide thus obtained.

reactant | 4,4'-dihydroxybenzophenone | 0.467 mole, One hundred grams | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
reactant | hydroxylamine hydrochloride | 0.699 mole, 48.6 grams | Cl.NO
reactant | sodium acetate | 0.700 mole, 57.4 grams | C(C)(=O)[O-].[Na+]
reactant | toluenesulfonic acid | 0.027 mole, 1.85 grams | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 70 milliliters | O | H2O
solvent | water | 400 milliliters | O | H2O
solvent | water | Twenty-five milliliters | O | H2O
solvent | acetic acid | 330 milliliters | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 milliliters | C(C)O | C2H6O
solvent | ethanol | 300 milliliters | C(C)O | C2H6O
product | 4,4'-Dihydroxybenzanilide | OC1=CC=C(C(=O)NC2=CC=C(C=C2)O)C=C1 | C13H11NO3
